US07812022B2
To a solution of 2,5-difluoro-N-[3-(3-{2-[(3-{[(trifluoroacetyl)amino]methyl}phenyl)-amino]-4-pyrimidinyl}pyrazolo[1,5-a]pyridin-2-yl)phenyl]benzamide (90 mg, 0.14 mmol) in THF (3 mL) and water (0.5 mL) was added LiOH.H2O (12 mg, 0.28 mmol). The solution was stirred at 50° C. for 2 h, then diluted with 25 mL EtOAc and washed with 1 M aqueous Na2CO3. The aqueous layer was extracted with EtOAc, and the combined organic layers were dried over Na2SO4, filtered, and concentrated. The crude product was purified by flash chromatography to generate 42 mg of the title compound as a yellow solid (0.08 mmol, 55% yield). 1H NMR (400 MHz, d6-DMSO): δ 10.66 (s, 1H), 9.55 (s, 1H), 8.85 (d, J=7.0 Hz, 1H), 8.54 (d, J=8.8 Hz, 1H), 8.27 (d, J=5.1 Hz, 1H), 8.05 (s, 1H), 7.87 (d, J=7.7 Hz, 1H), 7.77 (s, 1H), 7.35-7.59 (m, 7H), 7.11-7.23 (m, 2H), 6.97 (d, J=7.5 Hz, 1H), 6.51 (d, J=4.9 Hz, 1H), 3.72 (s, 2H). MS (ESI) m/z=548 [M+H]+.

reactant | 2,5-difluoro-N-[3-(3-{2-[(3-{[(trifluoroacetyl)amino]methyl}phenyl)-amino]-4-pyrimidinyl}pyrazolo[1,5-a]pyridin-2-yl)phenyl]benzamide | 0.14 mmol, 90 mg | FC1=C(C(=O)NC2=CC(=CC=C2)C2=NN3C(C=CC=C3)=C2C2=NC(=NC=C2)NC2=CC(=CC=C2)CNC(C(F)(F)F)=O)C=C(C=C1)F | C33H22F5N7O2
reactant | LiOH.H2O | 0.28 mmol, 12 mg | O[Li].O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | water | 0.5 mL | O | H2O
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
product | N-{3-[3-(2-{[3-(Aminomethyl)phenyl]amino}-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}-2,5-difluorobenzamide | 0.08 mmol, 42 mg, 55% yield | NCC=1C=C(C=CC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C=2C=C(C=CC2)NC(C2=C(C=CC(=C2)F)F)=O | C31H23F2N7O
